US06413938B1
4,5,6-Trifluoro-1-(5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine
4,5,6-Trifluoro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine (0.42 g, 1.02 mmol), ethanol (10 mL), sodium carbonate (0.19 g, 1.79 mmol), water (2 mL) and methanol (5 mL) were used according to general procedure III. The title compound was purified by silica gel chromatography using 10:1 dichloromethane-methanol as eluant to provide a white solid (0.26 g, 75%); m.p. 148-151° C.; 1H NMR (DMSO-d6) δ: 7.10 (m, 1H, Ar—H), 6.68 (d, J=7.5 Hz, NH), 5.70 (d, J=6.7 Hz, 1H, CH), 5.27 (m, 2H, overlapping OH), 4.35 (dd, J=6.6 Hz, 1H, CH), 4.12 (m, 1H, CH), 3.91 (m, 1H, CH), 3.85 (m, 1H, CH), 1.40 (d, J=6.5 Hz, 3H, CH3), 1.24 (d, J=6.4 Hz, 6H, overlapping CH3).

reactant | 4,5,6-Trifluoro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 1.02 mmol, 0.42 g | FC1=C(C(=CC=2N(C(=NC21)NC(C)C)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)C)F)F | C19H22F3N3O5
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium carbonate | 1.79 mmol, 0.19 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 2 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 4,5,6-Trifluoro-1-(5-deoxy-beta-D-ribofuranosyl)-N-(1-methylethyl)-1H-benzimidazol-2-amine | 0.26 g, 75% | FC1=C(C(=CC=2N(C(=NC21)NC(C)C)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)F)F | C15H18F3N3O3
